US06503907B2
2.85 g (9.5 mmol) 5-(5-Hydroxy-pent-1-ynyl)-indole-1-carboxylic acid tert-butyl ester in 100 ml MeOH were subjected to hydrogenation with 300 mg 10%Pd/C to yield 2.8 g 5-(5-Hydroxy-pentyl)-indole-1-carboxylic acid tert-butyl ester as colorless oil, MS: 303 (M). To the crude material in 60 ml CH2Cl2, 0.87 ml (11 mmol) methanesulfonyl chloride and 3.8 ml (27 mmol) triethyl amine were added at 0° C. The solution was stirred at RT for 1 h.

reactant | 5-(5-Hydroxy-pent-1-ynyl)-indole-1-carboxylic acid tert-butyl ester | 9.5 mmol, 2.85 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C#CCCCO | C18H21NO3
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5-(5-Hydroxy-pentyl)-indole-1-carboxylic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)CCCCCO | C18H25NO3
